US07015213B1
2-trifluoromethylbenzylisothiocyanate
A solution containing 2-trifluoromethylbenzylamide (3.50 g, 0.02 mol) in 50 ml of dichloromethane and a solution containing sodium bicarbonate (3.4 g, 0.04 mol) in 55 ml of water are added simultaneously over one hour at a temperature close to 20° C. to a solution of thiophosgene (2.28 g, 0.02 mol) in 15 ml of dichloromethane. Agitation is carried out for 30 minutes. The reaction mixture is decanted and the organic phase washed with 100 ml of water then with 100 ml of a solution of salt water. The organic phase is dried over magnesium sulphate and the solvent is evaporated off with a rotary evaporator. The expected compound is obtained in the form of an oil (3.50 g, 81%). Considering its reactivity, it is used immediately for the following reaction.

reactant | 2-trifluoromethylbenzylamide | 0.02 mol, 3.50 g | FC(C1=C(C[NH-])C=CC=C1)(F)F
reactant | sodium bicarbonate | 0.04 mol, 3.4 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 0.02 mol, 2.28 g | C(=S)(Cl)Cl | CCl2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 55 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-trifluoromethylbenzylisothiocyanate | FC(C1=C(CN=C=S)C=CC=C1)(F)F | C9H6F3NS
